US04638075
N'-Cyano-N-(2-nitrophenylsulfonyl)-S-methylisothiourea
A mixture of 2.02 g (10.0 mmol) of 2-nitrobenzene-sulfonamide, 1.46 g (10.0 mmol) of dimethyl N-cyanodithioiminocarbonate and 1.38 g (10.0 mmol) of powdered, anhydrous K2CO3 in 16 ml of acetone was heated at reflux for 20 hours. The reaction mixture was filtered and the solid collected was washed several times with acetone. The filtrate was evaporated and the orange oily residue was triturated with ether to afford a solid. The solid was collected by filtration, washed with ether and suspended in 10 ml of 1N HCl. After stirring for 1 hour the solid was collected by filtration, washed with water and dried to yield 1.65 g (55 percent) of the desired product as a cream colored solid, mp 122° C. (decomposition). IR and 1H NMR spectra were consistent with the assigned structure.

reactant | 2-nitrobenzene-sulfonamide | 10.0 mmol, 2.02 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N | C6H6N2O4S
reactant | dimethyl N-cyanodithioiminocarbonate | 10.0 mmol, 1.46 g | CSC(=NC#N)SC | C4H6N2S2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 16 ml | CC(=O)C | C3H6O
product | N'-Cyano-N-(2-nitrophenylsulfonyl)-S-methylisothiourea | 1.65 g, 55 percent | C(#N)N=C(NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])SC | C9H8N4O4S2
